US05047228
171 g of 5-amino-3-hydroxymethyl-2,4,6-triiodobenzoic acid is suspended in 3 1 of water and dissolved by adding dilute sodium hydroxide solution. Then a pH of 2.5 is set by the addition of semiconcentrated sulfuric acid, and under cooling a solution of 28 g of sodium nitrite in 96 ml of water is added dropwise within 20 minutes in such a way that the reaction temperature ranges between 0° and +5° C. Thereafter the pH value is again set at 2.5 with semiconcentrated sulfuric acid, and the mixture is stirred for 2 hours in an ice bath. Subsequently the reaction mixture is neutralized under cooling with dilute sodium hydroxide solution, and poured into a solution of 143 g of copper(I) cyanide and 267 g of potassium cyanide in 1.3 1 of water, during which step strong frothing occurs. The mixture is agitated for 30 minutes at room temperature, brought to pH 2.8 by adding concentrated hydrochloric acid, the precipitated copper salts are vacuum-filtered, the filtrate is brought to pH 0.5 by further addition of hydrochloric acid, and the mixture is agitated for several hours in an ice bath. The thus-formed precipitate is vacuum-filtered and, after washing with water, suspended in 3 1 of water, extensively dissolved by adding concentrated ammonia, active carbon is added, and the mixture is allowed to stand under agitation at room temperature for 30 minutes. The mixture is vacuum-filtered, the filtrate is combined with excess concentrated hydrochloric acid, allowed to stand under agitation in an ice bath for several hours, and the precipitate is vacuum-filtered and dissolved in water-moist form in 1.3 1 of acetone. After several hours of agitation in an ice bath, the crystallized product is vacuum-filtered, washed with ice-cold acetone, and dried at 50° C., thus obtaining 141 g (=81% of theory) of 5-cyano-3-hydroxymethyl-2,4,6-triiodobenzoic acid as a white powder, mp 250-252° C. (decomposition).

reactant | 5-amino-3-hydroxymethyl-2,4,6-triiodobenzoic acid | 171 g | NC=1C(=C(C(=C(C(=O)O)C1I)I)CO)I | C8H6I3NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 28 g | N(=O)[O-].[Na+]
reactant | copper(I) cyanide | 143 g | [Cu]C#N
reactant | potassium cyanide | 267 g | [C-]#N.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 96 ml | O | H2O
product | 5-cyano-3-hydroxymethyl-2,4,6-triiodobenzoic acid | 141 g, 81% | C(#N)C=1C(=C(C(=C(C(=O)O)C1I)I)CO)I | C9H4I3NO3
